US05486580
A. Synthesis of α-p-Nitrophenyl-p-acetoxycinnamic Acid
p-Nitrophenylacetic acid (0.60 moles, 108.69 grams) is added to a one liter glass beaker containing stirred aqueous sodium hydroxide solution (24.0 grams, 0.06 mole diluted with deionized water to a total volume of 600 mL) followed by heating to 60° C. The resultant solution is rotary evaporated under vacuum until final conditions of 100° C. and one mm Hg are achieved and maintained for 30 minutes. A portion (99.08 g, 0.4877 mole) of the recovered dry, white carboxylic acid sodium salt, p-hydroxybenzaldehyde (59.56 g, 0.4877 mole) and acetic acid (250 g) are added to a reactor equipped with a reflux condenser and stirred under a nitrogen atmosphere at a 145° C. reflux. Refluxing is continued over the next 18 hours after which time, the reactor is cooled to 100° C. and ethanol (300 mL) and deionized water (50 mL) are added. The resultant slurry is boiled at 89° C. for one hour followed by cooling to 50° C. and filtered. The filtrate is added to deionized water (1500 mL) and the resultant precipitate recovered by filtration. The precipitate is exhaustively extracted with deionized water saturated with sodium carbonate. The combined extracts are filtered and neutralized with concentrated aqueous hydrochloric acid inducing formation of a precipitate. The precipitate is recovered by filtration and dried at 50° C. in a forced air, convection type oven. The dried powder is added to a beaker along with carbon tetrachloride (200 mL) and stirred with heating to a boil. Acetic acid (40 mL) is added to the boiling slurry and allowed to boil. Once boiling is achieved, the slurry is allowed to cool to room temperature (23° C.) and then at 4° C. for 16 hours. The product is recovered by filtration and dried at 70° C. under a vacuum of 5 mm Hg to a constant weight of 39.1 grams of brilliant, light yellow colored, crystalline powder.

reactant | p-Nitrophenylacetic acid | 0.60 moles, 108.69 grams | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | p-hydroxybenzaldehyde | 0.4877 mole, 59.56 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | acetic acid | 250 g | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 50 mL | O | H2O
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | α-p-Nitrophenyl-p-acetoxycinnamic Acid | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)=CC1=CC=C(C=C1)OC(C)=O | C17H13NO6
